data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_487509_0,[C:1]1([C:2]([C:6]([H:20])([H:21])[H:22])([C:7]([H:19])([H:23])[H:24])[N:8]([H:12])[H:13])([C:5]([H:16])([H:17])[H:18])[C:3]([O:9][H:10])([H:11])[C:4]1([H:14])[H:15]>>[C:1](=[C:2]([C:6]([H:20])([H:21])[H:22])[C:7]([H:19])([H:23])[H:24])([C:4]([C:3]([N:8]([H:12])[H:13])([O:9][H:10])[H:11])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18],70.07292500000233
MR_367816_0,[C:1]([N:3](/[C:4]([N:6]([H:10])[H:11])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[N:5]([H:8])[H:9])([H:13])([H:14])[H:15]>>[C:1]([C:7]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[N:3]/[N:5]([H:8])[H:9])[N:6]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],69.72403499999146
MR_434736_1,[C:1]([N:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([O:7][H:9])(/[N:8]=[C:6](\[C:4]([H:18])([H:19])[H:20])[H:11])[H:10]>>[C:1](\[O:7][H:9])(=[N:8]/[C:6]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[H:11])[H:10],47.16478249998431
MR_688126_1,[C:1]1([N:4](/[C:5]([N:6]([H:11])[H:12])=[C:8](\[N:7]([H:13])[H:14])[H:19])[H:9])([H:10])[C:2]([H:15])([H:16])[C:3]1([H:17])[H:18]>>[C:1](\[C:2]([C:3](/[C:5]([N:6]([H:11])[H:12])=[C:8](\[N:7]([H:13])[H:14])[H:19])([H:17])[H:18])([H:15])[H:16])(=[N:4]/[H:9])[H:10],68.14775499997623
MR_28968_0,[C:1](/[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])=[N:7]\[N:5]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[C:4]([C:2]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[N:7]1[N:5]([H:8])[H:9])([H:10])([H:11])[H:12],43.69219750001278
MR_647409_0,[C:1]([C:2]([C:5](=[O:8])[H:16])([H:14])[H:15])(/[C:3]([N:4]([H:11])[H:12])=[N:7]\[H:13])([O:6][H:9])[H:10]>>[C:1]([C:2]([C:5](/[C:3]([N:4]([H:11])[H:12])=[N:7]\[H:13])([O:8][H:9])[H:16])([H:14])[H:15])(=[O:6])[H:10],61.32996749996124
MR_489822_1,[C:1]([C:3]([O:7][H:12])=[O:8])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])([O:5][H:10])[O:6][H:11]>>[C:1](=[C:3]([O:7][H:12])[O:8][C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])([O:5][H:10])[O:6][H:11],56.661367499906135
MR_695888_2,[C@:1]([C:2]([N:6]([H:12])[H:13])([H:14])[H:15])([C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])=[O:8])([O:7][H:10])[H:11]>>[C@:1]([C:4]([C:2]([N:6]([H:12])[H:13])([H:14])[H:15])=[O:8])([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])([O:7][H:10])[H:11],49.37232750001087
MR_458320_0,[C:1]1([C:5]([C:4]([C:3]([H:12])([H:13])[H:14])=[O:8])=[C:6]([H:15])[H:16])([H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]1([C:5]([C:4]([C:3]([H:12])([H:13])[H:14])=[O:8])=[C:6]([H:15])[H:16])([H:9])[C:2]([H:10])([H:11])[O:7]1,57.14579750000283
MR_115355_1,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([O:4][O:5][H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@:3]([C:2]([H:10])([H:11])[H:12])([O:4][O:5][H:7])[O:6]1,72.89228250001798
MR_40479_0,[C:1](/[C:3]([C:7](=[C:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[H:15])=[C:8](/[N:6]([H:13])[H:14])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:3]1=[C:7]([H:15])[C:2]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:8]1([N:6]([H:13])[H:14])[H:16])([H:17])([H:18])[H:19],52.42009500002055
MR_112213_1,[C:1](/[C:5](=[C:4](/[C:8]([C:6]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])[H:13])[O:9][H:10])[N:7]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C@:5]1([N:7]([H:11])[H:12])[C:4]([O:9][H:10])=[C:8]([H:13])[C:6]1([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16],49.06987249998977
MR_246747_0,[N:1](\[N:3]([H:9])[H:10])=[C:5](/[C:6]([N:2]([N:4]([H:11])[H:12])[H:8])([H:7])[H:14])[H:13]>>[N:1]([N:3]([H:9])[H:10])(/[C:5](=[C:6](\[N:2]([N:4]([H:11])[H:12])[H:7])[H:14])[H:13])[H:8],69.24336999999227
MR_28514_0,[C:1](/[C:4](=[N:6]\[N:5]=[C:3](/[N:2]([H:7])[H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([H:10])[C:3]([N:2]([H:7])[H:8])([H:9])[N:5]=[N:6]1)([H:11])([H:12])[H:13],71.90083249998864
MR_457812_1,[C:1]([C:4]([C:3](/[C:2]([N:5]([H:10])[H:11])=[C:7](\[N:6]([H:12])[H:13])[H:14])=[C:8]([H:18])[H:19])=[C:9]([H:20])[H:21])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([C:9]([H:12])([H:20])[H:21])[C:2]([N:5]([H:10])[H:11])(/[C:7](=[N:6]/[H:13])[H:14])[C:3]1=[C:8]([H:18])[H:19])([H:15])([H:16])[H:17],38.49084999998297
MR_17623_0,[C@@:1]([C:2]([C:5]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:6](=[O:8])[H:10])[H:9]>>[C@@:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[C:2]([H:11])([H:12])[C@@:5]1([C:4]([H:16])([H:17])[H:18])[C:7]([C:6](=[O:8])[H:10])([H:19])[H:20],68.96225000002431
MR_161436_0,[C:1]([N:2](/[C:4](=[N:7]/[N:3]([H:8])[H:9])[H:10])[N:6]=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:4](\[N:7]([N:3]([H:8])[H:9])[N:6]=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13],66.8965199999964
MR_514206_0,[C:1]([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])([C:6]1([N:8]([H:13])[H:14])[C:2]([C:5]([H:21])([H:22])[H:23])([H:10])[O:9]1)[N:7]([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([C:6]([N:8]([H:13])[H:14])=[O:9])[H:10])([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])[N:7]([H:11])[H:12],56.83957749999124
